US07728039B2
Methyl 6-(3-adamantyl-4-hydroxyphenyl)naphtoate (506 mg, 1.23 mmol) was added to an ice-cooled suspension of NaH (80 mg, 60%) in dry DMF, the mixture stirred 1 h at 0° C., then added with 245 mg (1.7 mmol) of CH3I, and left 90 min at r.t. Taking up with 80 ml of cold water, repeated extraction with CH2Cl2, then with EtOAc, drying and evaporating the joined organic phases, and chromatography (silicagel, hexane/EtOAc 9/1) gave 300 mg of methyl 6-(3-adamantyl-4-methoxyphenyl)naphtoate. This compound (235 mg) was suspended in a 1M solution of NaOH in MeOH and the mixture was refluxed 8 h. Evaporation, taking up with water, addition of HCl and filtration gave 227 mg of 6-(3-adamantyl-4-methoxyphenyl)naphtoic acid, mp >300° C.

reactant | Methyl 6-(3-adamantyl-4-hydroxyphenyl)naphtoate | 1.23 mmol, 506 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C=2C=C3C=CC=C(C3=CC2)C(=O)OC | C28H28O3
reactant | NaH | 80 mg | [H-].[Na+]
reactant | CH3I | 1.7 mmol, 245 mg | CI | CH3I
reactant | water | 80 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 6-(3-adamantyl-4-methoxyphenyl)naphtoate | 300 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC=C(C3=CC2)C(=O)OC | C29H30O3
